US07732463B2
1,5-Dibromo-2-(2,4-dimethyl-phenylsulfanyl)-benzene (intermediate for 2e).
Prepared from 2,4-dimethyl-benzenethiol and 2,4-dibromo-1-iodo-benzene (prepared from 2,4-dibromo-phenylamine by diazotization according to the general procedure by Tunney and Stille J. Org. Chem. 1987, 52, 748-753).

reactant | 2,4-dimethyl-benzenethiol | CC1=C(C=CC(=C1)C)S | C8H10S
reactant | 2,4-dibromo-1-iodo-benzene | BrC1=C(C=CC(=C1)Br)I | C6H3Br2I
reactant | 2,4-dibromo-phenylamine | BrC1=C(C=CC(=C1)Br)N | C6H5Br2N
product | 1,5-Dibromo-2-(2,4-dimethyl-phenylsulfanyl)-benzene | BrC1=C(C=CC(=C1)Br)SC1=C(C=C(C=C1)C)C | C14H12Br2S
